US07071216B2
The mixture containing 4-ethyl-1-(4-nitrophenyl)piperazine in methanol with catalytic amount of 10% Pd/C was hydrogenated to yield 4-(4-ethylpiperazinyl)phenylamine. MS: MH+=205.

reactant | 4-ethyl-1-(4-nitrophenyl)piperazine | C(C)N1CCN(CC1)C1=CC=C(C=C1)[N+](=O)[O-] | C12H17N3O2
solvent | methanol | CO | CH4O
catalyst | Pd/C | [Pd] | Pd
product | 4-(4-ethylpiperazinyl)phenylamine | C(C)N1CCN(CC1)C1=CC=C(C=C1)N | C12H19N3
